US06495564B1
A solution of 6-[[2-(tert-butyl-dimethyl-silanyl)-3-methyl-3H-imidazol-4-yl]-(4-chloro-phenyl)-hydroxy-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one (4.24 g crude) in THF (100 mL) was treated with tetrabutylammonium chloride (1 M in THF, 10.0 mmol). The reaction mixture was stirred at room temperature for 12 hours, poured into H2O (200 mL), and extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with 1N HCl (100 mL), aqueous NaHCO3 (100 mL), and brine (100 mL), dried (MgSO4), filtered, and concentrated in vacuo to give a light green foam. Purification by flash column chromatography (silica, EtOAc:pet. ether:NH4OH 1:1:.01) gave 4-(3-Chloro-phenyl)-6-[(4-chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one (2.3 g, 68%) as a light yellow solid.

reactant | 6-[[2-(tert-butyl-dimethyl-silanyl)-3-methyl-3H-imidazol-4-yl]-(4-chloro-phenyl)-hydroxy-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one | 4.24 g | C(C)(C)(C)[Si](C1=NC=C(N1C)C(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)Cl)(O)C1=CC=C(C=C1)Cl)(C)C | C36H39Cl2N3O2Si
reactant | H2O | 200 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium chloride | 10.0 mmol, 1 M | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(3-Chloro-phenyl)-6-[(4-chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one | 2.3 g, 68% | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C1=CC=C(C=C1)Cl)CC1CC1)=O | C30H25Cl2N3O2
